US04405357
Under an argon atmosphere a stirred solution of 8.8 grams (0.044 mole) of N-(2-bromophenylmethyl)hydroxylamine and 12.0 grams (0.152 mole) of pyridine in 200 ml of methylene chloride was cooled to -10°. The reaction vessel was fitted with a septum and 5.2 grams (0.048 mole) of trimethylchlorosilane was added in small portions from a hypodermic syringe. Upon completion of addition the reaction mixture was stirred at -10° for 30 minutes, then allowed to warm to 0°. At this temperature a solution of 6.7 grams (0.044 mole) of 3-chloro-2,2-dimethylpropionyl chloride (prepared in the manner of Example 1, Step B) in 5 ml of methylene chloride was added dropwise over a 20-minute period. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it was stirred for 18 hours. The reaction mixture was poured into a separatory funnel and diluted with 50 ml of methylene chloride. The mixture was washed with 50 ml of water, 50 ml of an aqueous solution saturated with sodium chloride, two portions of 100 ml each of a solution consisting of 1:1--aqueous saturated sodium chloride solution:aqueous 10% hydrochloric acid solution, and finally 50 ml of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give a semi-solid residue. The semi-solid was slurried in 15 ml of hexane. The insoluble material was collected by filtration and recrystallized twice from hexane/ethyl acetate to give 5.7 grams of N-(2-bromophenyl)methyl-3-chloro-N-hydroxy-2,2-dimethylpropanamide; mp 119°-121°.

reactant | N-(2-bromophenylmethyl)hydroxylamine | 0.044 mole, 8.8 grams | BrC1=C(C=CC=C1)CNO | C7H8BrNO
reactant | pyridine | 0.152 mole, 12.0 grams | N1=CC=CC=C1 | C5H5N
reactant | trimethylchlorosilane | 0.048 mole, 5.2 grams | C[Si](Cl)(C)C | C3H9ClSi
reactant | 3-chloro-2,2-dimethylpropionyl chloride | 0.044 mole, 6.7 grams | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | 15 ml | CCCCCC | C6H14
product | N-(2-bromophenyl)methyl-3-chloro-N-hydroxy-2,2-dimethylpropanamide | 5.7 grams | BrC1=C(C=CC=C1)CN(C(C(CCl)(C)C)=O)O | C12H15BrClNO2
